US06313116B1
Methoxy-2-trifluoromethylbenzothiazole-7-carboxylic acid 4-nitrophenyl ester
A suspension of 4-methoxy-2-trifluoromethylbenzothiazole-7-carboxylic acid (140 mg) in dichloromethane (10ml) was treated with p-nitrophenol (72 mg), dimethylaminopyridine (catalytic) and 1-(3-dimethylaminopropyl)-3-ethyl carbodimide hydrochloride (150 mg). The mixture was stirred at room temperature for 12 hours and the reaction washed with water (10 ml). The organic layer was separated, dried over magnesium sulphate (5 g) and evaporated in vacuo. Purification by flash chromatography (eluent 50% ethyl acetate/hexane) yielded the title compound as an off-white solid (150 mg). TLC Rf 0.13 (50% ethyl acetate in heptane).

reactant | 4-methoxy-2-trifluoromethylbenzothiazole-7-carboxylic acid | 140 mg | COC1=CC=C(C2=C1N=C(S2)C(F)(F)F)C(=O)O | C10H6F3NO3S
reactant | p-nitrophenol | 72 mg | C1=CC(=CC=C1[N+](=O)[O-])O | C6H5NO3
reactant | dimethylaminopyridine | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | 1-(3-dimethylaminopropyl)-3-ethyl carbodimide hydrochloride | 150 mg | Cl.CN(CCCN=C=NCC)C
solvent | dichloromethane | 10ml | ClCCl | CH2Cl2
product | Methoxy-2-trifluoromethylbenzothiazole-7-carboxylic acid 4-nitrophenyl ester | 150 mg | [N+](=O)([O-])C1=CC=C(C=C1)OC(=O)C1=CC=C(C=2N=C(SC21)C(F)(F)F)OC | C16H9F3N2O5S
